US06264917B1
a) Synthesis of 3β-[N-(N′,N′-dimethylaminoethane)carbamoyl]cholesterol (DC-chol) (Farhood H., Gao, X, Barsoum, J. and Huang, L., Anal. Biochem. 225, 89-93 (1995))
To a stirred solution of 2-dimethylaminoethylamine (19.40 mg, 24:1, 0.22 mmol) and triethylamine (310 μl, 2.23 mmol) in dichloromethane (3 ml) at room temperature was slowly added a solution of cholesteryl chloroformate (100 mg, 0.22 mmol) in 1,4-dioxane. When the reaction was completed, the mixture was evaporated to dryness and the residue was purified by flash chromatography (CHCl3/MeOH, 4:1). A white solid was obtained, yield 105 mg (95%). The structure was verified by NMR and MALDI.

reactant | 2-dimethylaminoethylamine | 0.22 mmol, 19.40 mg | CN(CCN)C | C4H12N2
reactant | triethylamine | 2.23 mmol, 310 μl | C(C)N(CC)CC | C6H15N
reactant | cholesteryl chloroformate | 0.22 mmol, 100 mg | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3β-[N-(N′,N′-dimethylaminoethane)carbamoyl]cholesterol | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)OC(=O)NCCN(C)C)C)C | C32H56N2O2
